US04404138
3-(2-(3-Azabicyclo[3,2,2]non-3-yl)ethyl]-8-ethyl-1,2,3,4-tetrahydro-5H-benzopyrano[3,4-c]pyridin-5-one, dihydrochloride
Prepared by the method described for Example 1 from 8-ethyl-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-c]pyridin-5-one (5.5 g, 0.024 moles) and 3-(2-chloroethyl)-3-azabicyclo(3.2.2)nonane hydrochloride (5.5 g, 0.025 moles). Recrystallization from ethanol gave the product (7.4 g), mp 295°-300° C.

reactant | 8-ethyl-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.024 moles, 5.5 g | C(C)C1=CC2=C(C=C1)C1=C(CNCC1)C(O2)=O | C14H15NO2
reactant | 3-(2-chloroethyl)-3-azabicyclo(3.2.2)nonane hydrochloride | 0.025 moles, 5.5 g | Cl.ClCCN1CC2CCC(C1)CC2
product | 3-(2-(3-Azabicyclo[3,2,2]non-3-yl)ethyl]-8-ethyl-1,2,3,4-tetrahydro-5H-benzopyrano[3,4-c]pyridin-5-one, dihydrochloride | 7.4 g | Cl.Cl.C12CN(CC(CC1)CC2)CCN2CC1=C(CC2)C2=C(OC1=O)C=C(C=C2)CC | InChI=1S/C24H32N2O2.2ClH/c1-2-17-7-8-21-20-9-10-25(16-22(20)24(27)28-23(21)13-17)11-12-26-14-18-3-4-19(15-26)6-5-18;;/h7-8,13,18-19H,2-6,9-12,14-16H2,1H3;2*1H
